US07700623B2
To an N,N-dimethylformamide (70 mL) solution of 9.81 g of 4-[3-(4-piperidinyl)propoxy]benzonitrile were added 8.02 g of potassium carbonate and 2.62 mL of 3-bromo-1-propanol at room temperature, which was then stirred at the same temperature for 2 hours and 15 minutes. Thereto was added 2.62 mL of 3-bromo-1-propanol, which was then stirred at the same temperature for 1 hour and 45 minutes. Chloroform and water were added to the reaction mixture. The organic layer was separated, washed sequentially with a 1 mol/L sodium hydroxide aqueous solution and a saturated sodium chloride aqueous solution, and then dried with anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The resultant residue was purified using silica gel column chromatography (eluent; chloroform:methanol=4:1) to provide 4.28 g of 4-{3-[1-(3-hydroxypropyl)-4-piperidinyl]propoxy}benzonitrile as white solid form.

reactant | N,N-dimethylformamide | 70 mL | CN(C=O)C | C3H7NO
reactant | 4-[3-(4-piperidinyl)propoxy]benzonitrile | 9.81 g | N1CCC(CC1)CCCOC1=CC=C(C#N)C=C1 | C15H20N2O
reactant | potassium carbonate | 8.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromo-1-propanol | 2.62 mL | BrCCCO | C3H7BrO
reactant | 3-bromo-1-propanol | 2.62 mL | BrCCCO | C3H7BrO
solvent | water | O | H2O
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-{3-[1-(3-hydroxypropyl)-4-piperidinyl]propoxy}benzonitrile | 4.28 g | OCCCN1CCC(CC1)CCCOC1=CC=C(C#N)C=C1 | C18H26N2O2
